US09163011B2
Acid-12: 3-Chloro-5-(3-methoxy-prop-1-ynyl)-pyridine-2-carboxylic acid
To a solution of 3-methoxy-propyne (421 mg, 6 mmol), bis(triphenylphosphine)palladium(II) chloride (84 mg, 0.12 mmol), copper(I) iodide (23 mg, 0.12 mmol) and N Eta (1.17 ml, 8.4 mmol) in THF (10 ml) under Argon was added 3-chloro-5-bromo-pyridine-2-carboxylic acid methyl ester (284 mg, 1.2 mmol) and the mixture was heated to 80° C. for 5 h. At 0° C. water (12 ml) was added and the mixture was extracted with EtOAc. The aq. Phase was acidified to pH 1 by addition of 1N HCl, extracted with DCM. The combined DCM extracts were washed with half-saturated aq. sodium chloride, dried with Na2SO4 and evaporated to provide the title compound as an off-white solid, which was used for coupling reactions without further purification.

reactant | 3-methoxy-propyne | 6 mmol, 421 mg | COCC#C | C4H6O
reactant | 3-chloro-5-bromo-pyridine-2-carboxylic acid methyl ester | 1.2 mmol, 284 mg | COC(=O)C1=NC=C(C=C1Cl)Br | C7H5BrClNO2
reactant | water | 12 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.12 mmol, 84 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.12 mmol, 23 mg | [Cu]I
product | 3-Chloro-5-(3-methoxy-prop-1-ynyl)-pyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)C#CCOC)C(=O)O | C10H8ClNO3
